subckt aoi41_x1 A1 A2 B1 B2 C X VDD VSS
AOI41N40_PA0 (aoi41_and_n A1 VDD VDD) pmos w=2u l=100n
AOI41N40_PB0 (aoi41_and_n A2 VDD VDD) pmos w=2u l=100n
AOI41N40_PC0 (aoi41_and_n B1 VDD VDD) pmos w=2u l=100n
AOI41N40_PD0 (aoi41_and_n B2 VDD VDD) pmos w=2u l=100n
AOI41N40_ND0 (aoi41_and_n B2 na4_3 VSS) nmos w=1u l=100n
AOI41N40_NC0 (na4_3 B1 na4_2 VSS) nmos w=1u l=100n
AOI41N40_NB0 (na4_2 A2 na4_1 VSS) nmos w=1u l=100n
AOI41N40_NA0 (na4_1 A1 VSS VSS) nmos w=1u l=100n
AOI41I40_P0 (aoi41_and aoi41_and_n VDD VDD) pmos w=2u l=100n
AOI41I40_N0 (aoi41_and aoi41_and_n VSS VSS) nmos w=1u l=100n
AOI41N20_PA0 (pmid_AOI41N20_0 aoi41_and VDD VDD) pmos w=2u l=100n
AOI41N20_PB0 (X C pmid_AOI41N20_0 VDD) pmos w=2u l=100n
AOI41N20_NA0 (X aoi41_and VSS VSS) nmos w=1u l=100n
AOI41N20_NB0 (X C VSS VSS) nmos w=1u l=100n
ends aoi41_x1
